US05629406
1-[(2S,3S)-3-{N2 -[4-(4-Benzylpiperazin-1-yl)-acetamidophenoxy]acetyl-L-asparaginyl}amino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide
Following a procedure similar to that described in Example 38, but using 100 mg (0.137 mmol) of 1-{(2S,3S)-3-[N2 -(4-bromoacetamidophenoxy)acetyl-L-asparaginyl]amino-2-hydroxy-4-phenylbutyryl}-N-t-butyl-L-prolinamide and 1 ml of 1-benzylpiperazine, 60 mg of the title compound were obtained as a colorless powder, melting at 119°-127° C.

reactant | 1-{(2S,3S)-3-[N2 -(4-bromoacetamidophenoxy)acetyl-L-asparaginyl]amino-2-hydroxy-4-phenylbutyryl}-N-t-butyl-L-prolinamide | 0.137 mmol, 100 mg | BrCC(=O)NC1=CC=C(OCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N2[C@H](C(=O)NC(C)(C)C)CCC2)O)CC2=CC=CC=C2)C=C1 | C33H43BrN6O8
reactant | 1-benzylpiperazine | 1 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 1-[(2S,3S)-3-{N2 -[4-(4-Benzylpiperazin-1-yl)-acetamidophenoxy]acetyl-L-asparaginyl}amino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide | 60 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC(=C(OCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N2[C@H](C(=O)NC(C)(C)C)CCC2)O)CC2=CC=CC=C2)C=C1)NC(C)=O | C44H58N8O8
